US06921763B2
N2-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (250 mg, 0.503 mmol), 1-bromo-2-fluoroethane (47 ul, 0.629 mmol), Potassium carbonate (87 mg, 0.629 mmol) and Sodium iodide (10 mg, 0.066 mmol) were mixed in DMF (3 mL). The reaction mixture was heated at 80° C. overnight. The crude reaction mixture was purified by reverse phase preparative HPLC using acetonitrile/water (50 mM ammonium acetate buffer) as mobile phase to give N2-(4-{4-amino-1-[1-(2-fluoroethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide (221 mg, 81%). 1H NMR (DMSO-d6) δ 1.91 (m, 2H), 2.26 (m, 4H), 2.66 (m, 1H), 2.73 (m, 1H), 3.05 (m, 2H), 3.97 (s, 3H), 4.04 (s, 3H), 4.61 (m, 1H), 4.61 (m, 1H), 4.64 (m, 1H), 7.15 (m, 1H), 7.33 (m, 4H), 7.58 (d, J=8.46 Hz, 1H), 7.70 (d, J=7.95 Hz, 1H), 8.11 (d, J=8.14 Hz, 1H), 8.25 (s, 1H), 9.44 (s, 1H). LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, PH 4.5), 0.8 mL/min.): RT=2.17 min. MH+=543.3.

reactant | N2-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.503 mmol, 250 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCNCC2 | C27H28N8O2
reactant | 1-bromo-2-fluoroethane | 0.629 mmol, 47 ul | BrCCF | C2H4BrF
reactant | Potassium carbonate | 0.629 mmol, 87 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Sodium iodide | 0.066 mmol, 10 mg | [I-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N2-(4-{4-amino-1-[1-(2-fluoroethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide | 221 mg, 81% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CCN(CC2)CCF | C29H31FN8O2
